* -------------------------------------------------------------------------- *
*                                                                            *
*      Universal OpAmp Model for NGSPICE                                     *
*                                                                            *
*      https://github.com/kitanokitsune/universal_opamp_for_ngspice          *
* -------------------------------------------------------------------------- *



* ############################################################################
* # Universal OpAmp with single pole                                         #
* ############################################################################

.subckt UniversalOpAmp2 1 2 3 4 5
*                       | | | | |
*                       | | | | Out
*                       | | | V-
*                       | | V+
*                       | In-
*                       In+
*
+ params: Avol=1Meg GBW=10Meg Slew=10Meg Vos=0mV ilimit=25mA railp=0V railn=0V Ron=1 Rout=50 Rincm=1e13 Rindiff=1e13 phimargin=90 Vgwid=0.65V
*
**** PARAMETER DESCRIPTIONS ****
*   Avol: Open-Loop voltage Gain [V/V]
*   GBW: Gain Bandwidth Product [Hz]
*   Slew: Slew rate [V/sec]
*   Vos: Input offset voltage [V]
*   ilimit: Output short circuit current [A]
*   railp: Gap from maximum output voltage to positive power supply(V+) [V]
*   railn: Gap from negative power supply(V-) to minimum output voltage [V]
*   Ron: On-resistance of output transistor [ohm]
*   Rout: Open-Loop output impedance [ohm]
*   Rincm: Common-Mode Input impedance [ohm]
*   Rindiff: Differential Input impedance [ohm]
*   phimargin: (not supported)
*   Vgwid: Adjusting this may help you fix convergence error (>0.1)
*
.param pi=3.141592653589793
.param pi2={pi*2}
*
* +-------------+
* | Input Stage |
* +-------------+
RIN1 3 1 {2*Rincm}
RIN2 3 2 {2*Rincm}
RIN3 2 4 {2*Rincm}
RIN4 1 4 {2*Rincm}
RIN5 1 2 {Rindiff}
*
* +---------------+
* | Amplify Stage |
* +---------------+
.param RR1={(Avol >= 1Meg) && (Avol*Slew/GBW >= 10Meg) ? 100Meg : 100k}
.param gm1={Avol/RR1}
.param CC1={gm1/(pi2*GBW)}
.param Islew={CC1*Slew}
BG1 0 N001 I='Islew*tanh((V(1,2)+Vos)*gm1/Islew)'
C1  N001 0 {CC1}
R11 N001 3 {2*RR1}
R12 4 N001 {2*RR1}
BHI  NHI 0 V='V(3)+0.3'
BLO  NLO 0 V='V(4)-0.3'
D1  N001 NHI DPULL
D2  NLO N001 DPULL
*
* +--------------+
* | Output Stage |
* +--------------+
XQ1 5 3 N001 5 simulated_fet_sw Ionmax={ilimit} Vser={railp} Ron={Ron} Rout={Rout} Vgwid={Vgwid}
XQ2 4 5 5 N001 simulated_fet_sw Ionmax={ilimit} Vser={railn} Ron={Ron} Rout={Rout} Vgwid={Vgwid}
.param COUT=4p
C3 5 4 {COUT/2}
C4 3 5 {COUT/2}
D3 5 3 DPOUT
D4 4 5 DPOUT
.model DPULL D(Rs=1)
.model DPOUT D(Rs=100u)
*
.ends
*$



* ############################################################################
* # Universal OpAmp with two poles                                           #
* ############################################################################

.subckt UniversalOpAmp3a 1 2 3 4 5
*                        | | | | |
*                        | | | | Out
*                        | | | V-
*                        | | V+
*                        | In-
*                        In+
*
+ params: Avol=1Meg GBW=10Meg Slew=10Meg Vos=0mV ilimit=25mA railp=0V railn=0V Ron=1 Rout=50 Rincm=1e13 Rindiff=1e13 phimargin=45 Vgwid=0.65V
*
**** PARAMETER DESCRIPTIONS ****
*   Avol: Open-Loop voltage Gain [V/V]
*   GBW: Gain Bandwidth Product [Hz]
*   Slew: Slew rate [V/sec]
*   Vos: Input offset voltage [V]
*   ilimit: Output short circuit current [A]
*   railp: Gap from maximum output voltage to positive power supply(V+) [V]
*   railn: Gap from negative power supply(V-) to minimum output voltage [V]
*   Ron: On-resistance of output transistor [ohm]
*   Rout: Open-Loop output impedance [ohm]
*   Rincm: Common-Mode Input impedance [ohm]
*   Rindiff: Differential Input impedance [ohm]
*   phimargin: Phase margin at unloaded condition [degree] (useful range = 2 ~ 90)
*   Vgwid: Adjusting this may help you fix convergence error (>0.1)
*
.param pi=3.141592653589793
.param pi2={pi*2}
*
* +-------------+
* | Input Stage |
* +-------------+
RIN1 3 1 {2*Rincm}
RIN2 3 2 {2*Rincm}
RIN3 2 4 {2*Rincm}
RIN4 1 4 {2*Rincm}
RIN5 1 2 {Rindiff}
*
* +---------------+
* | Amplify Stage |
* +---------------+
.param RR1={(Avol >= 1Meg) && (Avol*Slew/GBW >= 10Meg) ? 100Meg : 100k}
.param gm1={Avol/RR1}
.param CC1={gm1/(pi2*GBW)}
.param Islew={CC1*Slew}
BG1 0 N001 I='Islew*tanh((V(1,2)+Vos)*gm1/Islew)'
C1  N001 0 {CC1}
R11 N001 3 {2*RR1}
R12 4 N001 {2*RR1}
BHI  NHI 0 V='V(3)+0.3'
BLO  NLO 0 V='V(4)-0.3'
D1  N001 NHI DPULL
D2  NLO N001 DPULL
*
* +----------------+
* | 2nd Pole Stage |
* +----------------+
.param RR2=1Meg
.param gm2={1/RR2}
.param logphi={log(max(phimargin, 0.01))}
.param X={0.089213244342034*(logphi**6)-2.0330123425203053*(logphi**5)+19.39875811124115*(logphi**4)-99.64061023577621*(logphi**3)+292.2395635444727*(logphi**2)-467.4788425726529*(logphi**1)+321.52463521259574}
G2  0 N002  N001 0  {gm2}
C2  N002 0 {max(X,0)/RR2/GBW}
R2  N002 0 {RR2}
*
* +--------------+
* | Output Stage |
* +--------------+
XG3 5 3 N002 5 simulated_fet_sw Ionmax={ilimit} Vser={railp} Ron={Ron} Rout={Rout} Vgwid={Vgwid}
XG4 4 5 5 N002 simulated_fet_sw Ionmax={ilimit} Vser={railn} Ron={Ron} Rout={Rout} Vgwid={Vgwid}
.param COUT=4p
C3 5 4 {COUT/2}
C4 3 5 {COUT/2}
D3 5 3 DPOUT
D4 4 5 DPOUT
.model DPULL D(Rs=1)
.model DPOUT D(Rs=100u)
*
.ends
*$



* ############################################################################
* # Simulated FET - Gradual Switch                                           #
* ############################################################################

.subckt  simulated_fet_sw      1     2     3     4
*                            Source Sink  VG+   VG-
+ params: Ionmax=25m Ioffmax=10nA Ron=1 Rout=50 Vser=0 Vrev=-100u Vgth=0 Vgwid=0.65V
*
.param PI=3.141592653589793
*
.param A = {sqrt(Ionmax/Ioffmax)}
*
.param Ymin = {A*(sqrt((log(A))**2+1)+1)/2/exp(sqrt((log(A))**2+1)-1)}
*
.param ep   = {A*(sqrt((log(A))**2+1)-1)/2/exp(sqrt((log(A))**2+1)-1)}
*
.param Y = {max(PI*Rout*Ionmax*log(A)/Vgwid, Ymin)}
*
.param k = {2/PI*atanh(log(Y-ep)/log(A)-1)}
*
.param Vh = {(PI*Rout*Ionmax*log(A)*(A**(-tanh(PI*k/2)-1))) / (cosh(PI*k/2)**2)}
*
.param Vth = {Vgth+k*Vh}
*
B1 2 1 I = 'tanh(max({Vrev}, V(2,1)-{Vser})/{Ron}/{Ionmax}) * sqrt({Ioffmax}*{Ionmax})*(sqrt({Ioffmax}/{Ionmax}))**(tanh(-{PI}/2*(V(3,4)-{Vth})/{Vh}))'
*
.ends
*$
